US08686002B2
7-(2-Fluoro-6-methoxybenzyl)[1.3]dioxolo[4.5-g]quinolin-6-amine
The title compound was synthesized according to EXAMPLE 11 from 6-amino-1,3-benzodioxole 5-carbaldehyde and 3-(2-fluoro-6-methoxyphenyl)propionitrile.

reactant | 6-amino-1,3-benzodioxole 5-carbaldehyde | NC=1C(=CC2=C(OCO2)C1)C=O | C8H7NO3
reactant | 3-(2-fluoro-6-methoxyphenyl)propionitrile | FC1=C(C(=CC=C1)OC)CCC#N | C10H10FNO
product | 7-(2-Fluoro-6-methoxybenzyl)[1.3]dioxolo[4.5-g]quinolin-6-amine | FC1=C(CC=2C(=NC=3C=C4C(=CC3C2)OCO4)N)C(=CC=C1)OC | C18H15FN2O3
